US07951799B2
(1R,2R)-1,2-diaminocyclohexane 2294 g (20.09 mol) was dissolved in 3.1 L of ethanol to make a solution. To a 100 L glass lined reactor equipped with a stirrer, were added 26.8 L of ethyl acetate, 4635 g of 4-hydroxy-2-oxo-3-pyrroline-1-carboxylic acid benzyl ester (content: 96.2%, 19.12 mol) synthesized according to the methods of Non-Patent Reference 9 and 12.5 L of ethanol, furthermore, a previously prepared ethanol solution of (1R,2R)-1,2-diaminocyclohexane was added at 15 to 21° C. For washing, 2.2 L of ethanol was used. Next, 3.35 L of 6M hydrochloric acid (20.1 mol) was added at 19 to 25° C. For washing, 0.3 L of water was used. The reaction mixture was heated to 60° C., and reacted at the same temperature for 3 hours. While holding the temperature at approximately 60° C., 4.4 L of ethyl acetate was added, the mixture was cooled to 50° C., 2.4 g of seed crystal was added, and the solution was kept at 50° C. for one hour. While holding the temperature at approximately 50° C., 22.3 L of ethyl acetate was added over one hour, the solution was kept at 50° C. for one hour, cooling to 10° C. over 4.6 hours, and kept at 10° C. for another 10 hours. The deposited solid was separated with a centrifuge, and washed with 17.8 L of a cooled mixed solution of ethyl acetate-ethanol (volume ratio: 75:25). The obtained wet solid was dried under reduced pressure at 50° C. for 19 hours to obtain 6342 g of 4-[(1R,2R)-2-aminocyclohexylamino]-2-oxo-3-pyrroline-1-carboxylic acid benzyl ester hydrochloride.

reactant | (1R,2R)-1,2-diaminocyclohexane | 20.09 mol, 2294 g | N[C@H]1[C@@H](CCCC1)N | C6H14N2
reactant | ethyl acetate | 26.8 L | C(C)(=O)OCC | C4H8O2
reactant | 4-hydroxy-2-oxo-3-pyrroline-1-carboxylic acid benzyl ester | 19.12 mol, 4635 g | C(C1=CC=CC=C1)OC(=O)N1C(C=C(C1)O)=O | C12H11NO4
reactant | hydrochloric acid | 20.1 mol, 6M, 3.35 L | Cl | ClH
reactant | ethyl acetate | 4.4 L | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 22.3 L | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 3.1 L | C(C)O | C2H6O
solvent | ethanol | 12.5 L | C(C)O | C2H6O
product | 4-[(1R,2R)-2-aminocyclohexylamino]-2-oxo-3-pyrroline-1-carboxylic acid benzyl ester hydrochloride | 6342 g | Cl.C(C1=CC=CC=C1)OC(=O)N1C(C=C(C1)N[C@H]1[C@@H](CCCC1)N)=O | InChI=1S/C18H23N3O3.ClH/c19-15-8-4-5-9-16(15)20-14-10-17(22)21(11-14)18(23)24-12-13-6-2-1-3-7-13;/h1-3,6-7,10,15-16,20H,4-5,8-9,11-12,19H2;1H/t15-,16-;/m1./s1
